US04473709
Under a dry nitrogen atmosphere, 6.1 g (0.027 mole) of N,N-dimethyl-[1,1'-biphenyl]-2-carboxamide was dissolved with stirring in 250 ml of dry 1,2-dimethoxyethane. To this solution was added portionwise 1.3 g (0.034 mole) of lithium aluminum hydride. Upon complete addition, the reaction mixture was heated at reflux temperature for 18 hours. The reaction mixture was then cooled to room temperature, and 1.22 ml (0.068 mole) of water was added dropwise. The reaction mixture was filtered, and the filtrate concentrated under reduced pressure to give 6.1 g (100% yield) of N,N-dimethyl-[1,1'-biphenyl]-2-methanamine as a yellow liquid.

reactant | N,N-dimethyl-[1,1'-biphenyl]-2-carboxamide | 0.027 mole, 6.1 g | CN(C(=O)C=1C(=CC=CC1)C1=CC=CC=C1)C | C15H15NO
reactant | lithium aluminum hydride | 0.034 mole, 1.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.068 mole, 1.22 ml | O | H2O
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | N,N-dimethyl-[1,1'-biphenyl]-2-methanamine | 6.1 g, 100% yield | CN(CC=1C(=CC=CC1)C1=CC=CC=C1)C | C15H17N
